US04636501
Preparation of N,N-dimethyl-N'-(2-((2-hydroxy-3-(4-(2-(2-methylpropoxy)ethoxy)phenoxy)propyl)amino)ethyl)urea
8 g of 3-(4-(2-(2-methylpropoxy)ethoxy)phenoxy)-1,2-epoxypropane and 14 g of N-2-aminoethyl-N',N'-dimethylurea was warmed (60°-70° C.) in 150 ml of isopropanol over night. The mixture was evaporated and the residue dissolved in ethyl acetate. The ethyl acetate phase was washed with water (twice), fresh water was then added and pH lowered to 5 with hydrochloric acid. Fresh ethyl acetate was then added to the water phase and pH was rised to 9.5. The organic phase was separated off, dried, and evaporated. The residue was recrystallized from a small amount of ethyl acetate. Yield 3 g. M.p. 75° C. (base). The structure was determined using NMR-analysis.

reactant | 3-(4-(2-(2-methylpropoxy)ethoxy)phenoxy)-1,2-epoxypropane | 8 g | CC(COCCOC1=CC=C(OCC2CO2)C=C1)C | C15H22O4
reactant | N-2-aminoethyl-N',N'-dimethylurea | 14 g | NCCNC(=O)N(C)C | C5H13N3O
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
product | N,N-dimethyl-N'-(2-((2-hydroxy-3-(4-(2-(2-methylpropoxy)ethoxy)phenoxy)propyl)amino)ethyl)urea | CN(C(=O)NCCNCC(COC1=CC=C(C=C1)OCCOCC(C)C)O)C | C20H35N3O5
